US09169243B2
A suspension 2-chloro-5-fluoro-4-iodopyridine (1.8 g, 1.00 mmol), 4-cyclopropyl imidazole (982 mg, 9.10 mmol), Cu2O (100 mg, 0.700 mmol), 8-hydroxyquinoline (152 mg, 1.05 mmol), cesium carbonate (4.60 g, 14.0 mmol), and PEG-3350 (1.4 g) in butyronitrile (50 mL) was heated at 65° C. for 16 hours. The reaction mixture was filtered through Celite, concentrated and the residue was partitioned between dichlormethane and water. The layers were separated and the aqueous layer washed twice with dichloromethane. The combined organic layers were dried (MgSO4), filtered and concentrated. The residue was purified by flash chromatography (15→60% EtOAc in hexanes) to afford 2-chloro-4-(4-cyclopropyl-1H-imidazol-1-yl)-5-fluoropyridine.

reactant | 2-chloro-5-fluoro-4-iodopyridine | 1.00 mmol, 1.8 g | ClC1=NC=C(C(=C1)I)F | C5H2ClFIN
reactant | 4-cyclopropyl imidazole | 9.10 mmol, 982 mg | C1(CC1)C=1N=CNC1 | C6H8N2
reactant | 8-hydroxyquinoline | 1.05 mmol, 152 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | cesium carbonate | 14.0 mmol, 4.60 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | butyronitrile | 50 mL | C(CCC)#N | C4H7N
product | 2-chloro-4-(4-cyclopropyl-1H-imidazol-1-yl)-5-fluoropyridine | ClC1=NC=C(C(=C1)N1C=NC(=C1)C1CC1)F | C11H9ClFN3
